US07951794B2
A solution of 3-(3,5-dimethyl-4-oxiranylmethoxy-phenyl)-1-(5-methyl-4-phenyl-thiophen-2-yl)-propan-1-one (30 mg, 74 μmol) in methanol (1 mL) and ammonia (22 μL, approx. 7 N solution in methanol) is stirred at 65° C. for 4 h and at rt for 18 h. The solvent is removed in vacuo and the residue is purified by prep. HPLC to give 3-[4-(3-amino-2-hydroxy-propoxy)-3,5-dimethyl-phenyl]-1-(5-methyl-4-phenyl-thiophen-2-yl)-propan-1-one (4 mg) as a colourless resin; LC-MS: tR=0.87 min, [M+1]+=424.24.

reactant | 3-(3,5-dimethyl-4-oxiranylmethoxy-phenyl)-1-(5-methyl-4-phenyl-thiophen-2-yl)-propan-1-one | 74 μmol, 30 mg | CC=1C=C(C=C(C1OCC1OC1)C)CCC(=O)C=1SC(=C(C1)C1=CC=CC=C1)C | C25H26O3S
reactant | ammonia | approx. 7 N, 22 μL | N | H3N
solvent | methanol | 1 mL | CO | CH4O
product | 3-[4-(3-amino-2-hydroxy-propoxy)-3,5-dimethyl-phenyl]-1-(5-methyl-4-phenyl-thiophen-2-yl)-propan-1-one | 4 mg | NCC(COC1=C(C=C(C=C1C)CCC(=O)C=1SC(=C(C1)C1=CC=CC=C1)C)C)O | C25H29NO3S
